US07344702B2
Synthesis of 2-tert-butyl-4-chloro-5-(4-(4-fluorobutyl)benzyl)thio-3(2H)-pyridazinone
To a round bottom flask is added 2-tert-butyl-4-chloro-5-(4-(4-toluenesulfonyloxybutyl)benzyl)thio-3(2H)-pyridazinone (0.05 g, 0.093 mmol) and to it is added tetrabutylammonium fluoride (1.0 M solution in THF, 0.93 μl, 0.93 mmol) followed by 0.2 ml of THF. The reaction is heated to 60 C and stirred at that temperature for 30 minutes. The mixture is then cooled and concentrated and the crude subjected to flash chromatography to obtain the above mention compound.

reactant | 2-tert-butyl-4-chloro-5-(4-(4-toluenesulfonyloxybutyl)benzyl)thio-3(2H)-pyridazinone | 0.093 mmol, 0.05 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC1=CC=C(C=C1)CCCCOS(=O)(=O)C=1C(=CC=CC1)C | C26H31ClN2O4S2
reactant | tetrabutylammonium fluoride | 0.93 mmol, 1.0 M, 0.93 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 0.2 ml | C1CCOC1 | C4H8O
product | 2-tert-butyl-4-chloro-5-(4-(4-fluorobutyl)benzyl)thio-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC1=CC=C(C=C1)CCCCF | C19H24ClFN2OS
